US07410984B2
3-{4-[3-(4-Nitrophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}propionic acid ethyl ester (P7)
3-(4-Nitrophenyl)-1H-pyridin-2-one (P3, 200 mg, 0.93 mmol), 3-(4-chloromethyl-phenyl)propionic acid ethyl ester (P6, 270 mg, 1.20 mmol) and cesium carbonate (900 mg, 2.78 mmol) were stirred for 18 hours in dimethyl formamide (5 mL) at room temperature. The reaction mixture was filtered through celite (Diatomaceous Earth), concentrated and the crude mixture was purified by chromatography on silica gel (50% v/v ethyl acetate in petroleum ether) to afford the title compound as a solid.

reactant | 3-(4-Nitrophenyl)-1H-pyridin-2-one | 0.93 mmol, 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(NC=CC1)=O | C11H8N2O3
reactant | 3-(4-chloromethyl-phenyl)propionic acid ethyl ester | 1.20 mmol, 270 mg | C(C)OC(CCC1=CC=C(C=C1)CCl)=O | C12H15ClO2
reactant | cesium carbonate | 2.78 mmol, 900 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-{4-[3-(4-Nitrophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C23H22N2O5
